US07399867B2
Heat a solution of 4-[2-(4-methanesulfonyl-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenylamine (170 mg, 9.41 mmol) and di-tert-butyl dicarbonate (140 mg, 0.66 mmol) in tetrahydrofuran (10 mL) at reflux for 4 hours, then cool to ambient temperature and evaporate to dryness under reduced pressure. Chromatograph the residue on silica gel with dichloromethane/ethyl acetate mixtures to give 210 mg of {4-[2-(4-methanesulfonyl-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenyl}-carbamic acid tert-butyl ester (97%).

reactant | 4-[2-(4-methanesulfonyl-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenylamine | 9.41 mmol, 170 mg | CS(=O)(=O)C1=CC=C(C=C1)C1=C(C2=CC=C(C=C2C=C1)OC)OC1=CC=C(C=C1)N | C24H21NO4S
reactant | di-tert-butyl dicarbonate | 0.66 mmol, 140 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | {4-[2-(4-methanesulfonyl-phenyl)-6-methoxy-naphthalen-1-yloxy]-phenyl}-carbamic acid tert-butyl ester | 210 mg, 97% | C(C)(C)(C)OC(NC1=CC=C(C=C1)OC1=C(C=CC2=CC(=CC=C12)OC)C1=CC=C(C=C1)S(=O)(=O)C)=O | C29H29NO6S
